US08314250B2
10% Palladium-on-carbon (53 mg) was added to a magnetically stirred solution of [3-(tert-butyl-dimethyl-silanyloxymethyl)-5-nitro-phenyl]-methanol (535 mg, 1.80 mmol) in ethanol (20 mL). The heterogeneous mixture was purged twice using vacuum and dry nitrogen, then stirred at room temperature under hydrogen at atmospheric pressure. After three hours, the reaction mixture was filtered through a pad of Celite®. The pad was washed with ethanol (2×20 mL) and the filtrate was concentrated to give crude [3-amino-5-(tert-butyl-dimethyl-silanyloxymethyl)-phenyl]-methanol (515 mg) as an off-white solid, which was used directly in the next step without purification.

reactant | [3-(tert-butyl-dimethyl-silanyloxymethyl)-5-nitro-phenyl]-methanol | 1.80 mmol, 535 mg | C(C)(C)(C)[SiH2]OC(C=1C=C(C=C(C1)[N+](=O)[O-])CO)(C)C | C14H23NO4Si
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Palladium-on-carbon | 53 mg | [Pd] | Pd
product | [3-amino-5-(tert-butyl-dimethyl-silanyloxymethyl)-phenyl]-methanol | 515 mg | NC=1C=C(C=C(C1)C(O[SiH2]C(C)(C)C)(C)C)CO | C14H25NO2Si
